US08404672B2
To a solution of tert-butyl-1-(4-(5-(5-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate (previous reaction) in dichloromethane (0.5 mL) was added trifluoroacetic acid (0.5 mL), and the mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was treated with triethylamine and re-concentrated. The product mixture was purified by flash silica gel chromatography using a mixture of methanol, dichloromethane, and ammonium hydroxide (10:90:0-10:90:1-15:85:1-20:80:1) to give 1-(4-(5-(5-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid (0.007 g, 0.015 mmol) as an off-white solid. The product had an HPLC retention time=2.33 min.—Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=472.0. 1H NMR (500 MHz, methanol-d3) δ ppm 3.50 (quin, J=8.25 Hz, 1H), 4.21-4.29 (m, 4H), 4.46 (s, 2H), 7.66-7.71 (m, 3H), 8.02-8.05 (m, 1H), 8.08-8.13 (m, 1H), 8.28 (d, J=8.25 Hz, 2H), and 8.83-8.85 (m, 1H).

reactant | tert-butyl-1-(4-(5-(5-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate | C(C)(C)(C)OC(=O)C1CN(C1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=NC=CC=C1 | C26H24F3N5O4
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 1-(4-(5-(5-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid | 0.015 mmol, 0.007 g | N1=C(C=CC=C1)C1=C(C(=NO1)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1)C(F)(F)F | C22H16F3N5O4
